Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right knee prosthetic joint infection
 
Major Surgical or Invasive Procedure:
R knee resection arthroplasty, antibiotic spacer placement

 
History of Present Illness:
___ male distant history of right knee replacement by 
Dr. ___ orthopedics, referred in after several days to 
weeks of right knee swelling and erythema, clinic tap On ___ 
with 65,000 WBCs, and now growing GPCs; orthopedics on call. 
Discussed with infectious disease at that time, who recommended 
admission for IV antibiotics. 
 
Past Medical History:
HTN, PVD/PAD, OSA, Type 2 DM (last A1C 5.8%), PUD, GERD, BPH, 
Hepatitis C, Thrombocytopenia (Plt 81K on ___, acute septic R 
knee (MSSA -> I&D & partial posterior medial meniscectomy ___, 
treated with IV Ancef), retinopathy, s/p right inguinal hernia 
repair 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Lower Extremity:  
* Incision healing well with sutures in place, hemosiderin 
staining noted 
* Scant serosanguinous drainage  
* Thigh full but soft  
* No calf tenderness  
* ___ strength  
* SILT, NVI distally  
* Toes warm
* ___ brace in place

 
Pertinent Results:
___ 06:30AM BLOOD WBC-8.6 RBC-2.76* Hgb-7.9* Hct-25.7* 
MCV-93 MCH-28.6 MCHC-30.7* RDW-15.4 RDWSD-50.7* Plt ___
___ 05:34AM BLOOD WBC-7.6 RBC-2.82* Hgb-8.2* Hct-25.8* 
MCV-92 MCH-29.1 MCHC-31.8* RDW-14.9 RDWSD-49.7* Plt ___
___ 05:25AM BLOOD WBC-6.4 RBC-2.81* Hgb-8.0* Hct-25.7* 
MCV-92 MCH-28.5 MCHC-31.1* RDW-14.7 RDWSD-48.8* Plt ___
___ 12:18PM BLOOD WBC-7.9 RBC-2.76* Hgb-7.9* Hct-25.3* 
MCV-92 MCH-28.6 MCHC-31.2* RDW-14.8 RDWSD-49.5* Plt ___
___ 12:18PM BLOOD WBC-7.9 RBC-2.76* Hgb-7.9* Hct-25.3* 
MCV-92 MCH-28.6 MCHC-31.2* RDW-14.8 RDWSD-49.5* Plt ___
___ 07:05AM BLOOD WBC-8.6 RBC-2.76* Hgb-8.1* Hct-25.2* 
MCV-91 MCH-29.3 MCHC-32.1 RDW-15.1 RDWSD-50.2* Plt ___
___ 06:57PM BLOOD WBC-11.5* RBC-2.74* Hgb-8.1* Hct-24.9* 
MCV-91 MCH-29.6 MCHC-32.5 RDW-14.8 RDWSD-49.0* Plt ___
___ 05:55AM BLOOD WBC-11.3* RBC-2.52* Hgb-7.3* Hct-22.7* 
MCV-90 MCH-29.0 MCHC-32.2 RDW-14.9 RDWSD-49.0* Plt ___
___ 03:39AM BLOOD WBC-12.9* RBC-2.72* Hgb-7.8* Hct-24.5* 
MCV-90 MCH-28.7 MCHC-31.8* RDW-15.0 RDWSD-49.1* Plt ___
___ 09:07AM BLOOD WBC-15.4* RBC-3.29* Hgb-9.5* Hct-30.1* 
MCV-92 MCH-28.9 MCHC-31.6* RDW-15.1 RDWSD-49.9* Plt ___
___ 12:20AM BLOOD WBC-10.8*# RBC-3.57* Hgb-10.0* Hct-31.9* 
MCV-89 MCH-28.0 MCHC-31.3* RDW-14.8 RDWSD-48.5* Plt ___
___ 08:30AM BLOOD WBC-6.5 RBC-3.82* Hgb-11.1* Hct-34.5* 
MCV-90 MCH-29.1 MCHC-32.2 RDW-15.0 RDWSD-49.1* Plt ___
___ 08:30AM BLOOD Neuts-68.5 Lymphs-12.9* Monos-13.4* 
Eos-4.1 Baso-0.6 Im ___ AbsNeut-4.46 AbsLymp-0.84* 
AbsMono-0.87* AbsEos-0.27 AbsBaso-0.04
___ 06:30AM BLOOD Plt ___
___ 06:30AM BLOOD ___
___ 08:45AM BLOOD ___
___ 05:34AM BLOOD Plt ___
___ 05:25AM BLOOD Plt ___
___ 12:18PM BLOOD Plt ___
___ 07:05AM BLOOD Plt ___
___ 06:57PM BLOOD Plt ___
___ 05:55AM BLOOD Plt ___
___ 03:39AM BLOOD Plt ___
___ 09:07AM BLOOD Plt ___
___ 12:20AM BLOOD Plt ___
___ 09:09AM BLOOD ___ PTT-30.9 ___
___ 08:30AM BLOOD Plt ___
___ 06:30AM BLOOD Glucose-134* UreaN-10 Creat-0.7 Na-138 
K-3.9 Cl-105 HCO3-24 AnGap-13
___ 05:34AM BLOOD Glucose-151* UreaN-10 Creat-0.7 Na-136 
K-3.8 Cl-105 HCO3-24 AnGap-11
___ 05:25AM BLOOD Glucose-139* UreaN-12 Creat-0.7 Na-136 
K-4.0 Cl-105 HCO3-23 AnGap-12
___ 12:18PM BLOOD Glucose-81 UreaN-16 Creat-0.8 Na-135 
K-4.0 Cl-103 HCO3-23 AnGap-13
___ 07:05AM BLOOD Glucose-148* UreaN-18 Creat-0.8 Na-134 
K-4.2 Cl-102 HCO3-23 AnGap-13
___ 05:55AM BLOOD Glucose-137* UreaN-22* Creat-0.9 Na-132* 
K-4.0 Cl-100 HCO3-25 AnGap-11
___ 03:39AM BLOOD Glucose-134* UreaN-23* Creat-1.0 Na-132* 
K-3.9 Cl-100 HCO3-24 AnGap-12
___ 09:07AM BLOOD Glucose-154* UreaN-18 Creat-1.0 Na-134 
K-4.9 Cl-101 HCO3-28 AnGap-10
___ 12:20AM BLOOD Glucose-154* UreaN-15 Creat-1.0 Na-138 
K-4.2 Cl-104 HCO3-22 AnGap-16
___ 08:30AM BLOOD Glucose-55* UreaN-19 Creat-0.7 Na-139 
K-4.4 Cl-104 HCO3-24 AnGap-15
___ 07:05AM BLOOD CK(CPK)-286
___ 12:20AM BLOOD ALT-27 AST-22 LD(LDH)-148 AlkPhos-106 
TotBili-0.6
___ 06:30AM BLOOD Calcium-8.3* Phos-3.2 Mg-1.8
___ 05:34AM BLOOD Calcium-8.5 Phos-3.4 Mg-1.6
___ 05:25AM BLOOD Calcium-8.1* Phos-3.7 Mg-1.7
___ 12:18PM BLOOD Calcium-8.4 Phos-3.6 Mg-1.7
___ 07:05AM BLOOD Calcium-8.2* Phos-3.3 Mg-1.8
___ 03:39AM BLOOD Calcium-8.0* Phos-2.9 Mg-1.5*
___ 09:07AM BLOOD Calcium-8.3* Phos-3.6 Mg-1.6
___ 12:20AM BLOOD Albumin-3.2*
___ 08:30AM BLOOD Calcium-9.1 Phos-3.9 Mg-1.9
___ 07:10PM BLOOD CRP-12.7*
___ 05:34AM BLOOD Vanco-16.6
___ 10:15PM BLOOD Vanco-19.4
___ 11:40PM BLOOD Vanco-22.4*
___ 11:37PM BLOOD Vanco-12.6
___ 06:50AM BLOOD Vanco-14.2
 
Brief Hospital Course:
The patient was admitted to the orthopedic surgery service for 
recurrent prosthetic joint infection.  Joint aspiration showed 
coag negative staph.  He was started on IV antibiotics - 
Vancomycin.  Infectious disease was consulted for co-management. 
 The patient was taken to the operating room for a resection 
arthroplasty and placement of antibiotic spacer.  Please see 
separately dictated operative report for details. The surgery 
was uncomplicated and the patient tolerated the procedure well.  
He resumed Vancomycin post-operatively.  Postoperative course 
was remarkable for 
the following: 

On POD#1, the patient triggered for sudden atrial fibrillation 
with RVR.  He was given 5 mg of Lopressor IV x 2 with adequate 
response.  He was also given a 1 liter bolus of fluid.  Two days 
later, he again had atrial fibrillation with RVR.  Lopressor was 
given x3.  Cardiology was consulted and recommended giving 
Diltiazem 10 mg.  That morning, his heart rate was sustained 
into the 150s (atrial fibrillation w/RVR).  He was again given 
Lopressor 5 mg x 3 and Diltiazem 5 mg x 1.  He was then started 
on oral Metoprolol 12.5 mg every 6 hours based on Cardiology 
recommendations.  A PICC line was placed for long-term 
antibiotic management on ___.  On POD#2, his drains were 
discontinued.  On POD#3, his hematocrit was 22 and he was given 
2 units of blood.  His post-transfusion hematocrit was stable at 
25.2. Infectious disease recommended qh8 IV vancomycin 1250mg 
and troughs were checked before every 4th dose with a goal 
trough between 15 and 20.  On POD#4 cardiology recommended a 
trans thoracic echocardiogram which indicated an EF of 55%.  
Standing Toprol extended release 75mg was recommended for 
paroxysmal afib. On POD#6 his INR was 1.2 and 5mg of Coumadin 
was given. On POD#7 Mr. ___ INR was 1.2 and his  
Coumadin and lovenox were discontinued per cardiology 
recommendations. He was started on BID 5mg of apixaban.  
Infectious disease recommended changing antibiotic therapy to 
daptomycin 650mg q24h for a likely ___ dose was 
given prior to discharge without any reaction.   

Otherwise, pain was controlled with a combination of IV and oral 
pain medications.  The patient received Lovenox for DVT 
prophylaxis starting on the morning of POD#2 that was 
discontinued on POD#7.  The foley was removed and the patient 
was voiding independently thereafter. The surgical dressing was 
changed on POD#2 and the surgical incision was found to be clean 
and intact without erythema or abnormal drainage. The patient 
was seen daily by physical therapy. Labs were checked throughout 
the hospital course and repleted accordingly. At the time of 
discharge the patient was tolerating a regular diet and feeling 
well.  The patient was afebrile with stable vital signs.  The 
patient's hematocrit was acceptable and pain was adequately 
controlled on an oral regimen. The operative extremity was 
neurovascularly intact and the wound was benign. 

The patient's weight-bearing status is non weight bearing on the 
operative extremity in full extension in knee brace at all 
times.  

Mr. ___ is discharged to home with services in stable 
condition.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Penicillin G Potassium 4 Million Units IV Q4H 
2. Acetaminophen 1000 mg PO Q8H 
3. Docusate Sodium 100 mg PO BID 
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
5. Gabapentin 600 mg PO TID pain 
6. Aspirin 325 mg PO DAILY 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Finasteride 5 mg PO QHS 
9. Geritol Complete (mv, min #36-iron,carbonyl-FA) 16 mg iron- 
0.38 mg oral DAILY 
10. GlyBURIDE 5 mg PO DAILY 
11. MetFORMIN (Glucophage) 1000 mg PO BID 
12. Omeprazole 20 mg PO QPM 
13. Ramipril 10 mg PO DAILY 
14. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times a day 
Disp #*100 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*40 Tablet Refills:*0
3. Ferrous Sulfate 325 mg PO DAILY 
4. Finasteride 5 mg PO QHS 
5. Gabapentin 600 mg PO TID pain 
RX *gabapentin 600 mg 1 tablet(s) by mouth three times a day 
Disp #*42 Tablet Refills:*0
6. GlyBURIDE 5 mg PO DAILY 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Omeprazole 20 mg PO QPM 
9. Ramipril 10 mg PO DAILY 
10. Tamsulosin 0.4 mg PO QHS 
11. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*100 Tablet Refills:*0
12. Geritol Complete (mv, min #36-iron,carbonyl-FA) 16 mg iron- 
0.38 mg oral DAILY 
13. Daptomycin 650 mg IV Q24H Duration: 4 Weeks 
Last dose ___. 
RX *daptomycin [Cubicin] 500 mg 1.3 vials IV Q24H Disp #*55 Vial 
Refills:*0
14. Metoprolol Succinate XL 75 mg PO DAILY 
15. Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*120 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right knee prosthetic joint infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
 
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 
 
3. Resume your home medications unless otherwise instructed.
 
4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.
 
5. You may not drive a car until cleared to do so by your 
surgeon.
 
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment.
 
7. SWELLING: Ice the operative joint 20 minutes at a time, 
especially after activity or physical therapy. Do not place ice 
directly on the skin. You may wrap the knee with an ace bandage 
for added compression. Please DO NOT take any non-steroidal 
anti-inflammatory medications (NSAIDs such as Celebrex, 
ibuprofen, Advil, Aleve, Motrin, naproxen etc).
 
8. ANTICOAGULATION: Please continue your apixaban twice a day 
help prevent deep vein thrombosis (blood clots) and to treat 
your afib.  You will likely require this regimen lifelong at 
will be managed by your cardiologist.  You are following up with 
him on ___.  Please STOP taking your home aspirin 
(325mg) as well.  
 
9. WOUND CARE: Please keep your incision clean and dry. It is 
okay to shower five days after surgery but no tub baths, 
swimming, or submerging your incision until after your four (4) 
week checkup. Please place a dry sterile dressing on the wound 
each day if there is drainage, otherwise leave it open to air. 
Check wound regularly for signs of infection such as redness or 
thick yellow drainage. Staples will be removed at your follow-up 
appointment in two weeks.
 
10. ___ (once at home): Home ___, dressing changes as 
instructed, wound checks.
 
11. ACTIVITY: Non weight bearing on the operative extremity. In 
full extension in knee brace at all times. Mobilize. No 
strenuous exercise or heavy lifting until follow up appointment.

12. PICC CARE: Per protocol

13. WEEKLY LABS: draw on ___ and send result to ID RNs 
at: ___ R.N.s at ___. 
 - CBC/DIFF
 - CHEM 7
 - LFTS
 - ESR/CRP 
 - CPK

Physical Therapy:
NWB RLE
No ROM, ___ brace locked in full extension at all times
Mobilize frequently
Treatments Frequency:
daily dressing changes as needed for drainage
wound checks daily
ice
staples will be removed in clinic at first postoperative visit
 
Followup Instructions:
___